US04973697
Into a 50 ml autoclave, 2.22 g (15 mmol) of 2,6-dichloropyridine and 4.5 ml of ethanol were introduced and dissolved. To the solution, 2.27 g (18 mmol) of sodium sulfite dissolved in 18 ml of water, was added, and after sealing, the mixture was heated in an oil bath of 170° C. for 12 hours. After completion of the reaction, the mixture was cooled, and after an addition of 30 ml of water, extracted with methylene chloride (30 ml×3 times). The aqueous layer was distilled under reduced pressure, and 200 ml of ethanol was added. The mixture was heated. After filtering off insoluble precipitates, the filtrate was distilled under reduced pressure to obtain 0.94 g (30%) of sodium 2-chloropyridine-6-sulfonate as crystalline solid. Purification was conducted by recrystallization from ethanol. The physical property values are shown below.

reactant | 2,6-dichloropyridine | 15 mmol, 2.22 g | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
reactant | ethanol | 4.5 ml | C(C)O | C2H6O
reactant | sodium sulfite | 18 mmol, 2.27 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 18 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | sodium 2-chloropyridine-6-sulfonate | 0.94 g, 30% | ClC1=NC(=CC=C1)S(=O)(=O)[O-].[Na+] | InChI=1S/C5H4ClNO3S.Na/c6-4-2-1-3-5(7-4)11(8,9)10;/h1-3H,(H,8,9,10);/q;+1/p-1
